US06107300
Part A: Serinol (3.42 g) was added to a solution of trityl chloride (8.36 g) and triethylamine in 75 mL of dry DMF. After stirring at room temperature overnight, the reaction was poured into water and extracted twice with toluene. The combined organic layers were dried over potassium carbonate and concentrated to dryness. Recrystallization from boiling 1:1 benzene/hexane (two crops) afforded N-triphenylmethylserinol (7.59 g).

reactant | Serinol | 3.42 g | NC(CO)CO | C3H9NO2
reactant | trityl chloride | 8.36 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | N-triphenylmethylserinol | 7.59 g | C1(=CC=CC=C1)C(NC(CO)CO)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H23NO2
